US07101892B2
1-[3-(1-Benzenesulphonylcyclopent-3-enyl)propyl]-4,5-dimethyl-1,2,3,6-tetrahydropyridine
A solution of 3-(1-benzenesulphonylcyclopent-3-enyl)propan-1-ol (56 mg, 0.21 mmol) and triethylamine (41 μL, 0.29 mmol) in dichloromethane (5 ml) was cooled to 0° C. and treated with methanesulphonyl chloride (21 μL, 0.27 mmol). The mixture was allowed to warm to room temperature and stirred for 30 minutes, then diluted with water and extracted with ethyl acetate. The combined organic layers were dried (MgSO4) and concentrated in vacuo. The residue was dissolved in acetonitrile (5 ml), treated with 3,4-dimethyl-1,2,5,6-tetrahydropyridine (397 mg, 0.32 mmol) and potassium carbonate (58 mg, 0.42 mmol) and heated at 60° C. for 3 hours. The mixture was diluted with water and extracted with ethyl acetate. The combined organic layers were dried (MgSO4) and concentrated in vacuo. The residue was purified by preparative thin layer chromatography, eluting with 5% methanol/dichloromethane, to give the title compound.

reactant | 3-(1-benzenesulphonylcyclopent-3-enyl)propan-1-ol | 0.21 mmol, 56 mg | C1(=CC=CC=C1)S(=O)(=O)C1(CC=CC1)CCCO | C14H18O3S
reactant | triethylamine | 0.29 mmol, 41 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.27 mmol, 21 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3,4-dimethyl-1,2,5,6-tetrahydropyridine | 0.32 mmol, 397 mg | CC=1CNCCC1C | C7H13N
reactant | potassium carbonate | 0.42 mmol, 58 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-[3-(1-Benzenesulphonylcyclopent-3-enyl)propyl]-4,5-dimethyl-1,2,3,6-tetrahydropyridine | C1(=CC=CC=C1)S(=O)(=O)C1(CC=CC1)CCCN1CCC(=C(C1)C)C | C21H29NO2S
